US05464922
Following the procedure of Reference Example 1, 4.86 g diethyl 2,5-dihydroxyterephthalate was synthesized from 4.10 g 2,5-dihydroxyterephthalic acid; 4.00 g of this diethyl ester was used to produce 2.26 g diethyl 2,5-bis(3-butenyloxy)terephthalate; and 1.50 g 2,5-bis(3-butenyloxy)terephthalic acid was obtained from 2.11 g of the diethyl 2,5-bis(3-butenyloxy)terephthalate.

reactant | diethyl 2,5-dihydroxyterephthalate | 4.86 g | OC1=C(C(=O)OCC)C=C(C(=C1)C(=O)OCC)O | C12H14O6
reactant | 2,5-dihydroxyterephthalic acid | 4.10 g | OC1=C(C(=O)O)C=C(C(=C1)C(=O)O)O | C8H6O6
product | diethyl 2,5-bis(3-butenyloxy)terephthalate | 2.26 g | C(CC=C)OC1=C(C(=O)OCC)C=C(C(=C1)C(=O)OCC)OCCC=C | C20H26O6
